US08426447B2
A 0.5-2 mL microwave vial charged with (R)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (0.1000 g, 0.240 mmol), Mo(CO)6 (0.063 g, 0.240 mmol), acetoxy(2-(dio-tolylphosphino)benzyl)palladium (0.011 g, 0.012 mmol), sodium carbonate (0.025 g, 0.240 mmol), cyclopropylamine (0.025 mL, 0.359 mmol), and 1,4-dioxane (0.443 mL, 5.03 mmol) was sealed and heated to 170° C. for 30 minutes. The mixture was diluted with EtOAc and water and filtered through celite. The celite was washed with EtOAc and MeOH. The aqueous phase was extracted with EtOAc three times. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude was purified by silica gel chromatography (2-10% MeOH—CH2Cl2, then 10% MeOH—CH2Cl2). The product was purified again by reverse phase prep HPLC: 10-55% CH3CN (0.1% TFA)-water (0.1% TFA) in 26 min. The fractions were combined and neutralized with solid Na2CO3, extracted three times with DCM. The organic layer was concentrated to provide (S)-2-amino-N-cyclopropyl-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthene]-2′-carboxamide.

reactant | (R)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.240 mmol, 0.1000 g | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)N=C(OC3)N | C20H21BrN2O3
reactant | sodium carbonate | 0.240 mmol, 0.025 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyclopropylamine | 0.359 mmol, 0.025 mL | C1(CC1)N | C3H7N
reactant | 1,4-dioxane | 5.03 mmol, 0.443 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | acetoxy(2-(dio-tolylphosphino)benzyl)palladium | 0.012 mmol, 0.011 g | C(C)(=O)O[Pd]CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C
product | (S)-2-amino-N-cyclopropyl-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthene]-2′-carboxamide | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C(=O)NC2CC2)OCC(C)(C)C)N1 | C24H27N3O4
